US04205170
To 54 mg of 2-(5,6-dihydro-6-oxo benzo[b]pyrido[3,2-f]-thiepin-8-yl)-propionic acid in ethanol was added 5 ml of diazomethane etherial solution and the mixture was stirred at room temperature for 1 hour. To this was added acetic acid to decompose an excess reagent, then saturated sodium hydrogen-carbonate solution to make the solution alkaline, and the mixture was extracted with ethyl acetate. The extract was washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain 51 mg of oily substance, which was chromatographed over silica gel, eluted with benzene/chloroform (1/1) to obtain the colorless oily substance, which was crystallized from ethanol to give 40 mg of methyl 2-(5,6-dihydro-6-oxo benzo[b]pyrido[3,2-f]thiepin-8-yl)-propionate as colorless crystals having a melting point of 98°-99.5° C.

reactant | 2-(5,6-dihydro-6-oxo benzo[b]pyrido[3,2-f]-thiepin-8-yl)-propionic acid | 54 mg | O=C1C2=C(SC3=C(C1)C=CC=N3)C=CC(=C2)C(C(=O)O)C | C16H13NO3S
reactant | diazomethane | 5 ml | [N+](=[N-])=C | CH2N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium hydrogen-carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | methyl 2-(5,6-dihydro-6-oxo benzo[b]pyrido[3,2-f]thiepin-8-yl)-propionate | 40 mg | O=C1C2=C(SC3=C(C1)C=CC=N3)C=CC(=C2)C(C(=O)OC)C | C17H15NO3S
